US04853151
A mixture of 1 mmol of 3,11-bis(trans-4-propylcyclohexyl)dispiro[5.1.5.1]tetradecane-7,14-dithione (preparable by reaction of the corresponding diketone with P4S10) and 25 ml of tetrahydrofuran is added at room temperature to a well stirred suspension of fresh Raney nickel in THF and stirred for 24 h at room temperature. The usual working up yields 3,11-bis(trans-4-propylcyclohexyl)dispiro[5.1.5.1]tetradecane.

reactant | 3,11-bis(trans-4-propylcyclohexyl)dispiro[5.1.5.1]tetradecane-7,14-dithione | 1 mmol | C(CC)[C@@H]1CC[C@H](CC1)C1CCC2(CC1)C(C1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCC)C2=S)=S | C32H52S2
reactant | P4S10 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
catalyst | Raney nickel | [Ni] | Ni
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3,11-bis(trans-4-propylcyclohexyl)dispiro[5.1.5.1]tetradecane | C(CC)[C@@H]1CC[C@H](CC1)C1CCC2(CC1)CC1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCC)C2 | C32H56
